US07326710B2
(IV-20) N1-phenacyl-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride
A mixture of 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one (3.8 mmol), N-phenacyl piperazine dihydrochloride (0.89 g, 3.2 mmol) and K2CO3 (1.56 g, 11.2 mmol) in 30 ml of DMF are stirred at 50° C. for 10 h, then was treated according to the general preparation 2 to give compound(IV-19), 1.09 g (61%), M+ 451.

reactant | 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one | 3.8 mmol | BrC(C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC)C | C14H12BrClO2
reactant | N-phenacyl piperazine dihydrochloride | 3.2 mmol, 0.89 g | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 11.2 mmol, 1.56 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-phenacyl-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCN(CC1)C(C)C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC | InChI=1S/C26H27ClN2O3.2ClH/c1-18(26(31)21-8-10-22-20(16-21)9-11-24(32-2)25(22)27)29-14-12-28(13-15-29)17-23(30)19-6-4-3-5-7-19;;/h3-11,16,18H,12-15,17H2,1-2H3;2*1H
